US04018824
1-(iso-propyl)-3-azetidinol and 2,3-dichlorophenol were reacted in the same manner as in Example 6 to yield 1-(2',3'-dichlorophenoxy)-3-(iso-propylamino)-2-propanol melting at 94°-96° C. The yield was 54%.

reactant | 1-(iso-propyl)-3-azetidinol | C(C)(C)N1CC(C1)O | C6H13NO
reactant | 2,3-dichlorophenol | ClC1=C(C=CC=C1Cl)O | C6H4Cl2O
product | 1-(2',3'-dichlorophenoxy)-3-(iso-propylamino)-2-propanol | yield was 54% | ClC1=C(OCC(CNC(C)C)O)C=CC=C1Cl | C12H17Cl2NO2
